US09403798B2
6-Chloro-4-[4-(4-chlorophenyl)-4-hydroxy-piperidin-1-yl]-1,3,5-triazin-2(1H)-one
The crude product of 4-(4-chlorophenyl)-1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-ol (10.0 mmol) synthesized in Reference Synthesis Example 20 and 1 M sodium hydroxide aqueous solution (120.0 mL, 120 mmol) were used to obtain the title compound (3.19 g, yield 93%) by synthesis in a similar manner to Reference Synthesis Example 2.

reactant | 4-(4-chlorophenyl)-1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-ol | 10.0 mmol | ClC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(=NC(=N1)Cl)Cl)O | C14H13Cl3N4O
reactant | sodium hydroxide | 120 mmol, 1 M, 120.0 mL | [OH-].[Na+]
product | 6-Chloro-4-[4-(4-chlorophenyl)-4-hydroxy-piperidin-1-yl]-1,3,5-triazin-2(1H)-one | 3.19 g, yield 93% | ClC1=NC(=NC(N1)=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C14H14Cl2N4O2
